US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-3-hydroxybenzamide
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-3-methoxybenzamide (95 mg, 0.16 mmol) was dissolved in dichloromethane (3 ml). A solution of boron tribromide (1M in dichloromethane, 480 μl, 0.48 mmol) was added dropwise and the reaction was stirred at room temperature overnight. More solution of boron tribromide (1M in dichloromethane, 240 μL, 0.24 mmol) was added and the reaction was stirred at room temperature for 4 h. The mixture was diluted with dichloromethane and washed with a solution of 4% sodium bicarbonate, water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The product was purified by reverse phase using SP1® Purification System to give 45 mg (49% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-3-methoxybenzamide | 0.16 mmol, 95 mg | NC1=NC=NC(=C1C=1C=C(C=NC1)NC(C1=CC(=CC=C1)OC)=O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H29N9O3
reactant | boron tribromide | 0.48 mmol, 1M, 480 μl | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.24 mmol, 1M, 240 μL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-3-hydroxybenzamide | 45 mg, 49% yield | NC1=NC=NC(=C1C=1C=C(C=NC1)NC(C1=CC(=CC=C1)O)=O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H27N9O3
